US09260408B2
(S)-3-[5-(2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester
In analogy to the procedure described for the preparation of example 45, 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-2(1H)-one (intermediate A-34) has been coupled to (S)-3-(5-bromo-pyridin-3-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (intermediate A-29) to give the title compound as a dark grey amorphous solid. MS: 410.6 (M+H+).

reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-2(1H)-one | CC1(OB(OC1(C)C)C=1C=C2CCC(NC2=CC1)=O)C | C15H20BNO3
reactant | (S)-3-(5-bromo-pyridin-3-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC=1C=NC=C(C1)Br | C14H19BrN2O3
product | (S)-3-[5-(2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC=1C=NC=C(C1)C=1C=C2CCC(NC2=CC1)=O | C23H27N3O4
